US04954518
3-Acetylaminomethyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was treated with 6N hydrochloric acid to obtain 3-aminomethyl-7-methylsulfonylamino- 6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-Acetylaminomethyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | C(C)(=O)NCC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C19H18N2O6S
reactant | hydrochloric acid | 6N | Cl | ClH
product | 3-aminomethyl-7-methylsulfonylamino- 6-phenoxy-4H-1-benzopyran-4-one | NCC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H16N2O5S
